US04576940
To a solution of 2.3 g of 5-acetoxy-1-butyl-2-methyl-N-(1-(2-phenylethyl)-4-piperidyl)indole-3-carboxamide hydrochloride in 30 ml of methanol was added a solution of 0.5 g of potassium hydroxide in methanol, and the whole solution was stirred for an hour under heating. After the reaction mixture was cooled, the precipitated inorganic substance was filtered off and the filtrate was concentrated under reduced pressure. A solution of the residue in water with a small amount of ethanol was stirred and the precipitated crystals were filtered with suction. Recrystallization from ethyl acetate gave 1-butyl-5-hydroxy-2-methyl-N-(1-(2-phenylethyl)-4-piperidyl)indole-3-carboxamide as white crystals, melting at 178°-181° C. The corresponding hydrochloride monohydrate melts at 244°-247° C. with decomposition.

reactant | 5-acetoxy-1-butyl-2-methyl-N-(1-(2-phenylethyl)-4-piperidyl)indole-3-carboxamide hydrochloride | 2.3 g | Cl.C(C)(=O)OC=1C=C2C(=C(N(C2=CC1)CCCC)C)C(=O)NC1CCN(CC1)CCC1=CC=CC=C1
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 1-butyl-5-hydroxy-2-methyl-N-(1-(2-phenylethyl)-4-piperidyl)indole-3-carboxamide | C(CCC)N1C(=C(C2=CC(=CC=C12)O)C(=O)NC1CCN(CC1)CCC1=CC=CC=C1)C | C27H35N3O2
